US08497265B2
Step 2. 1-(4-(4,4,5,5-Tetramethyl-1,3,2-Dioxaborolan-2-yl)-5,6-Dihydropyridin-1(2H)-yl)Ethanone
To a solution of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine hydrochloride (2.9 g, 11.8 mmol) in DCM (30 mL) were added Et3N (3.6 g, 35.4 mmol) and acetyl chloride (AcCl) (932 mg, 11.8 mmol). The reaction mixture was stirred at room temperature for 1 hour, then diluted with DCM (20 mL), washed with H2O (2.0 mL). The organic layer was washed with brine (20 mL), dried over Na2SO4, and filtered, evaporated to give the crude product (3.2 g, crude). ESI-MS (M+1): 252 calc. for C13H22BNO3 251.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine hydrochloride | 11.8 mmol, 2.9 g | Cl.CC1(OB(OC1(C)C)C=1CCNCC1)C
reactant | Et3N | 35.4 mmol, 3.6 g | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 11.8 mmol, 932 mg | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-(4,4,5,5-Tetramethyl-1,3,2-Dioxaborolan-2-yl)-5,6-Dihydropyridin-1(2H)-yl)Ethanone | 3.2 g | CC1(OB(OC1(C)C)C1=CCN(CC1)C(C)=O)C | C13H22BNO3
